US08802673B2
To a stirred solution of (RS)-2-(3-methyl-4-nitrophenyl)oxirane (4.63 g) in THF (15 ml) was added 2-aminoethanol (15.5 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was then poured into EtOAc/THF (1:1) and extracted with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford (RS)-2-(2-hydroxyethylamino)-1-(3-methyl-4-nitrophenyl)ethanol (6.84 g, quant.) as a brown oil which was used in the next step without further purification. MS (ISP): 241.1 ([M+H]+).

reactant | (RS)-2-(3-methyl-4-nitrophenyl)oxirane | 4.63 g | CC=1C=C(C=CC1[N+](=O)[O-])C1OC1 | C9H9NO3
reactant | 2-aminoethanol | 15.5 ml | NCCO | C2H7NO
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (RS)-2-(2-hydroxyethylamino)-1-(3-methyl-4-nitrophenyl)ethanol | 6.84 g | OCCNCC(O)C1=CC(=C(C=C1)[N+](=O)[O-])C | C11H16N2O4
